Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Benadryl Decongestant
 
Attending: ___
 
___ Complaint:
ALTERED MENTAL STATUS
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ y/o female with PMHx of Afib (on coumadin), DM2, h/o of 
uterine CA, CKD, and bilateral nephrostomy tubes presenting to 
ED with AMS. Of note, she was recently hospitalized at ___ 
___ thru ___ after a syncopal event. Was found to have ___ 
and pyelonephritis, Her initial therapy was with cefepime and 
she completed a two-week course of therapy with ertapenem (end 
date ___. Her bilateral percutaneous nephrostomy tubes were 
exchanged during that admission. She was discharged to a rehab. 
She was discharged from rehab 4 days ago. Per family she 
developed tremors 1 day ago associated with dark bloody output 
from her nephrostomy tubes. She also had increased confusion, 
nausea, vomiting, and diarrhea. No fevers. Some decreased PO 
intake. Today she has not had N/V/D. Earlier today the patient 
slipped and fell in her living room, falling onto ground and 
striking her head. There was no LOC, and she was able to get up 
afterwards with help of family. The daughter also notes that the 
patient has been having increased tremor and "jerks". This tends 
to happen when she has an infection (and is documented during 
last admission here), with usual resolution with infection 
treatment. Patient uses wheelchair and mental stautus fluctuates 
at baseline but she is often confused. Initial vital signs in 
the ED were 98.9 68 107/52 28 99% 2L. Labs were significant for 
WBC 8.8 Hbg/Hct 9.4/27.4 Plt 118. INR was 10.4. Chemistry panel 
unremakable, BUN/Cr 117/4.3 (ratio was 77/2.3 upon recent 
discharge). LFTs and lipase were normal. Lactate was 1.5. 
Urinalysis was highly suggestive of infection. Renal ultrasound 
with no hydronephrosis and no perinephric fluid collection. She 
also had a CT head and CT c-spine which were negative for acute 
process. Chest Xray with mild bibasilar atelectasis and likely 
mild pulmonary vascular congestion. She was given morphine, 
tylenol, and 10mg IV vitamin K; started on meropenem. She was 
admitted to Medicine for further evaluation and treatment. Upon 
arrival to the floor, she is pleasant, oriented to person, 
place, and almost time (says its ___. She cannot tell me 
why she is here specifically, but thinks she has an infection. 
She is without any current complaints.
 
Social History:
___
Family History:
Cancer in brother ("abdomen"), daughter (thyroid).  DM in 
sister.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS: 98.0 ___ 99%RA
GENERAL: NAD. Pleasant.  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, no oral lesions.  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, nontender, +BS, nontender in all 
quadrants, no rebound/guarding, no hepatosplenomegaly. Ventral 
hernia, easily reducible.
EXTREMITIES: She has trace ___ edema on the left, 1+ on the right 
extending to just below the knee (per review of documentation, 
she usually has R>L edema). 
PULSES: 2+ DP pulses bilaterally via doppler
NEURO: Oriented to person, place, and partial time (knew it was 
___, thought it was ___).  CN II-XII intact, ___ strength and 
no focal deficits. She has frequent, periodic myoclonic jerking, 
mostly of the UEs, but also full body.
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE PHYSICAL EXAM
Vitals: 98.5F 155/77 77 20 98%RA
GENERAL: elderly woman in NAD, lying in bed
HEENT: AT/NC, EOMI, PERRL, anicteric sclera
NECK: no JVD 
CARDIAC: regular, systolic ejection murmur
LUNG: CTAB, no wheezes, rales, rhonchi
ABDOMEN: non-distended, non-tender, normoactive bowel sounds
EXTREMITIES: trace ___ edema bilaterally
NEURO: AA+O X 3 
SKIN: warm and well-perfused 
 
Pertinent Results:
ADMISSION LABS
___ 09:00PM   WBC-8.8 RBC-3.10* HGB-9.4* HCT-27.4* MCV-89 
MCH-30.3 MCHC-34.2 RDW-16.9*
___ 09:00PM   NEUTS-92.9* LYMPHS-4.1* MONOS-2.7 EOS-0.4 
BASOS-0
___ 09:00PM   ___ PTT-62.2* ___
___ 09:00PM   ALT(SGPT)-19 AST(SGOT)-30 ALK PHOS-59 TOT 
BILI-0.2
___ 09:00PM   LIPASE-8
___ 09:08PM   LACTATE-1.5
___ 09:00PM   GLUCOSE-100 UREA N-117* CREAT-4.3*# 
SODIUM-133 POTASSIUM-5.0 CHLORIDE-95* TOTAL CO2-22 ANION GAP-21*
___ 11:15PM URINE  BLOOD-LG NITRITE-NEG PROTEIN-100 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-LG
___ 11:15PM URINE  RBC->182* WBC->182* BACTERIA-MANY 
YEAST-NONE EPI-0

MICRO
___ 11:15 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      PSEUDOMONAS AERUGINOSA.    >100,000 ORGANISMS/ML.. 
      ENTEROCOCCUS SP..    10,000-100,000 ORGANISMS/ML.. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |          ENTEROCOCCUS SP.
                             |          |   
AMPICILLIN------------              <=2 S
CEFEPIME--------------     2 S
CEFTAZIDIME-----------     2 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------     2 S
MEROPENEM-------------   0.5 S
NITROFURANTOIN--------             <=16 S
PIPERACILLIN/TAZO-----     8 S
TETRACYCLINE----------              <=1 S
TOBRAMYCIN------------   <=1 S
VANCOMYCIN------------                1 S

IMAGING
RENAL ULTRASOUND
IMPRESSION: 1.  No hydronephrosis. 2.  Atrophic kidneys with 
cortical thinning bilaterally. No perinephric fluid collection. 
Small right renal cyst is similar to previous examination, and 
better characterized on ultrasound dated ___. 

CT HEAD
IMPRESSION: No acute intracranial process. Specifically no 
intracranial hemorrhage. 

CXR
IMPRESSION: Low lung volumes with mild bibasilar atelectasis and 
likely mild pulmonary vascular congestion. 

DISCHARGE LABS
___ 06:30AM BLOOD WBC-5.0 RBC-2.94* Hgb-9.0* Hct-26.5* 
MCV-90 MCH-30.6 MCHC-34.1 RDW-16.6* Plt ___
___ 06:30AM BLOOD Glucose-89 UreaN-113* Creat-3.8* Na-135 
K-3.8 Cl-100 HCO3-20* AnGap-19
___ 06:30AM BLOOD Plt ___
___ 06:30AM BLOOD ___
 
Brief Hospital Course:
Ms. ___ is an ___ y/o female with PMHx of Afib (on 
coumadin), DM2, h/o of uterine CA, CKD, and bilateral 
nephrostomy tubes who presented to the ED with altered mental 
status and found to have recurrent pyelonephritis associated 
with her nephrostomy tubes, ___ and C. difficile infection.

#C. DIFFICILE INFECTION: Returned positive on ___. Patient 
had reported diarrhea on admission but this symptom had resolved 
during hospitalization. Vancomycin PO started on ___ with 
course planned until 10 days after completion of Ciprofloxacin.

#UTI: Ms. ___ presented with increased confusion, bloody 
output from her nephrostomy tubes, nausea, and vomiting. 
Urinalysis suggestive of UTI, with no obvious signs of 
pyelonephritis on ultrasound. She had recent hospitalization for 
this same concern,  and had completed a course of Cefepime. 
Restarted Cefepime on admission here but culture returned as 
pan-sensitive Pseudomonas on ___ so transitioned to 
Ciprofloxacin PO with a planned 14-day course.

___ ON CKD: Baseline creatinine was 2.5. On admission her 
BUN/Cr was elevated to 117/4.3, likely due to current infection 
and pre-renal azotemia. Her uremia may be contributing to her 
current myoclonic jerking. 1.5L NS given during the first 24 
hours of this admission but renal function has improved today 
with Cr of 4.2. As below, lisinopril (5mg daily) and furosemide 
(160mg BID) were held.

#AFIB/SUPRATHERAPEUTIC INR: INR on admission 10.4. She had a 
reported fall the day prior to admission, CT head negative in 
the ED. She had bloody output from nephrostomy tubes, though in 
the setting of likely UTI/pyelonephritis. Received 10mg IV vit K 
in the ED. 

#BACTEREMIA: ED blood cultures returned with 1 bottle of gram 
positive cocci. Received Vancomycin X 1 on ___. Returned 
as Coagulase negative Staph on ___, suggestive of 
contaminant. Further antibiotics were deferred.

#ANEMIA: Recent baseline Hb appears to be ___. Hbg is 9.4 on 
admission. This may be secondary to worsening renal function as 
well as bleeding from her nephrostomy. Improved without 
intervention.

#DEPRESSION: Home Citalopram 10mg daily was continued. Home 
Gabapentin and Buspirone were held and restarted at discharge. 

#DM: Home Januvia was held. HISS was used while in house.

#HTN: Given relative hypotension, multiple infections and acute 
kidney injury, Lisinopril (5mg daily) and Furosemide (160mg BID) 
were held throughout this admission and at discharge. Metoprolol 
was continued.

#TRANSITIONAL ISSUES:
- 14 days course of ABX for pyelo to end ___. ID f/u 
arranged.
- PO Vancomycin for C difficile to end ___ (10d after 
completion of Cipro course)
- INR rising quickly prior to discharge so held on ___ and plan 
to discharge on 1mg daily. Next INR ___. Further titration by 
___ clinic.
- Please recheck chemistry panel at close f/up.
- Ms. ___ lisinopril and furosemide were held during her 
stay and will be held at discharge. Please restart these 
medications in the outpatient setting as appropriate by PCP or 
renal team.
 
Discharge Medications:
1. Citalopram 20 mg PO DAILY 
2. Januvia (sitaGLIPtin) 25 mg oral daily 
3. Metoprolol Succinate XL 25 mg PO BID 
4. Vancomycin Oral Liquid ___ mg PO Q6H 
Last day ___ 
RX *vancomycin 125 mg 1 capsule(s) by mouth every 6 hours Disp 
#*84 Capsule Refills:*0
5. Ciprofloxacin HCl 250 mg PO Q24H 
Last day ___ 
RX *ciprofloxacin HCl 250 mg 1 tablet(s) by mouth daily Disp 
#*10 Tablet Refills:*0
6. Gabapentin 100 mg PO BID 
7. Warfarin 1 mg PO DAILY16 
Starting ___ 
RX *warfarin 1 mg 1 tablet(s) by mouth daily Disp #*20 Tablet 
Refills:*0
8. Allopurinol ___ mg PO EVERY 3 DAYS 
9. BusPIRone 11.25 mg PO BID 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis: Pyelonephritis, C. difficile Infection, Acute 
on chronic renal failure

Secondary Diagnosis: Atrial Fibrillation, Type 2 Diabetes 
Mellitus 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___. You were admitted 
for confusion and a fall at home. You were found to have a 
urinary tract infection associated with your nephrostomy tubes. 

You were also found to have a diarrheal infection called C. 
difficile infection. Your kidney function was also worse than 
normal. You were treated with antibiotics and fluids and your 
kidney function improved. 

You will continue antibiotics for your kidney infection 
(Ciprofloxacin) for 10 more days until ___. You will take a 
medicine call Vancomycin by mouth until ___ to treat your C 
diff infection.

Please be sure to finish all this medication. You will follow-up 
with Dr. ___, Dr. ___ your ___ Care Physician 
for these problems going forward.

It was privilege to participate in your care.
 
Best wishes,
Your ___ Team
 
Followup Instructions:
___